US09284323B2
Preparation of (S)-ethyl 2-(6-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate:
To a solution of (S)-ethyl 2-(6-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-tert-butoxyacetate (260 mg, 0.5 mmol) in anhydrous THF (4 mL) at 0° C. was added a 1N tetrabutylammonium fluoride in THF (0.6 mL, 0.6 mmol) and stirred for 1 hour. The reaction was quenched by the addition saturated NaHCO3 solution and extracted using EtOAc. The organic layer was dried (MgSO4), filtered, concentrated and purified by flash column chromatography (silica gel, 5 to 30% ethyl acetate/hexanes) to give the desired compound. LCMS-ESI− (m/z): [M−H]− calcd for C19H22BrO4: 394.29. Found: 394.0.

reactant | (S)-ethyl 2-(6-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-tert-butoxyacetate | 0.5 mmol, 260 mg | BrC=1C=C2C=C(C(=C(C2=CC1)OS(=O)(=O)C(F)(F)F)[C@@H](C(=O)OCC)OC(C)(C)C)C | C20H22BrF3O6S
reactant | tetrabutylammonium fluoride | 1N | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 0.6 mmol, 0.6 mL | C1CCOC1 | C4H8O
product | (S)-ethyl 2-(6-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate | BrC=1C=C2C=C(C(=C(C2=CC1)O)[C@@H](C(=O)OCC)OC(C)(C)C)C | C19H23BrO4
